US09278985B2
6-Bromobenzo[b]thiophene (3.09 g, 14.5 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (4.42 g, 17.4 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) chloride (0.54 g, 0.74 mmol), and potassium acetate (2.89 g, 29.4 mmol) in anhydrous dioxane (48 mL) was refluxed at 80° C. for 4 h. The reaction was cooled and diluted with ethyl acetate, filtered through a pad of Celite, and washed with brine. The aqueous layer was extracted with ethyl acetate. The organic layers were dried, filtered, and adsorbed onto silica gel. Purification by flash chromatography (0-30% ethyl acetate/hexanes) provided 2-(benzo[b]thiophen-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as a yellow oily solid: (3.266 g, 87%): 1H NMR (400 MHz, CDCl3) δ 8.38 (d, J=0.7 Hz, 1H), 7.79 (ddd, J=20.2, 8.0, 0.8 Hz, 2H), 7.51 (d, J=5.5 Hz, 1H), 7.34 (dd, J=5.4, 0.7 Hz, 1H), 1.37 (s, 12H); 13C NMR (101 MHz, CDCl3) δ 141.78, 129.75, 129.58, 128.18, 123.87, 122.94, 83.89, 24.92; EIMS m/z 260.

reactant | 6-Bromobenzo[b]thiophene | 14.5 mmol, 3.09 g | BrC=1C=CC2=C(SC=C2)C1 | C8H5BrS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 17.4 mmol, 4.42 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 29.4 mmol, 2.89 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 48 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) chloride | 0.74 mmol, 0.54 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(benzo[b]thiophen-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | S1C2=C(C=C1)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C14H17BO2S
